* SPICE3 file created from INV.ext - technology: sky130A

X0 a_80_180# a_40_n130# a_n10_180# w_n50_130# sky130_fd_pr__pfet_01v8 ad=0.225 pd=2.1 as=0.1875 ps=2 w=0.75 l=0.2
X1 a_80_n100# a_40_n130# a_n20_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.225 pd=2.1 as=0.225 ps=2.1 w=0.75 l=0.2
